US20010020034A1
3-(2,6-Difluoro-4-methyl-benzyloxy)-5-[3-(4-dimethylamino-butyl)-ureido]-isothiazole-4-carboxylic acid amide
The title compound was prepared from [4-carbamoyl-3-(2,6-difluoro-4-methyl-benzyloxy)-isothiazol-5-yl]-carbamic acid phenyl ester and N,N-dimethyl-butane-1,4-diamine by the procedure analogous to Example 1. MS (APCl, m/z): 442 [M+H]+.

reactant | [4-carbamoyl-3-(2,6-difluoro-4-methyl-benzyloxy)-isothiazol-5-yl]-carbamic acid phenyl ester | C1(=CC=CC=C1)OC(NC1=C(C(=NS1)OCC1=C(C=C(C=C1F)C)F)C(N)=O)=O | C19H15F2N3O4S
reactant | N,N-dimethyl-butane-1,4-diamine | CN(CCCCN)C | C6H16N2
product | 3-(2,6-Difluoro-4-methyl-benzyloxy)-5-[3-(4-dimethylamino-butyl)-ureido]-isothiazole-4-carboxylic acid amide | FC1=C(COC2=NSC(=C2C(=O)N)NC(=O)NCCCCN(C)C)C(=CC(=C1)C)F | C19H25F2N5O3S
